US03985730
A solution of 4 parts of 10-(aminomethyl)-N,N,5-triethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-ethanamine in a minimal quantity of absolute ethanol is acidified with a 15% solution of hydrogen bromide in ethanol. Sufficient anhydrous ether is then added to induce separation of an oil. Supernatant solvents are decanted from the oil, which is crystallized by slurrying with anhydrous ether. The product thus isolated, filtered off and recrystallized from a mixture of ethanol and absolute ether, affords 10-(aminomethyl)-N,N,5-triethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-ethanamine dihydrobromide as a colorless solid which, dried in vacuo at 80°, melts at 234°- 236°.

reactant | 10-(aminomethyl)-N,N,5-triethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-ethanamine | NCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)CCN(CC)CC | C23H33N3
reactant | hydrogen bromide | Br | BrH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 10-(aminomethyl)-N,N,5-triethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-ethanamine dihydrobromide | Br.Br.NCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)CCN(CC)CC | InChI=1S/C23H33N3.2BrH/c1-4-25(5-2)16-15-23(18-24)17-19-11-7-9-13-21(19)26(6-3)22-14-10-8-12-20(22)23;;/h7-14H,4-6,15-18,24H2,1-3H3;2*1H
